US09216972B2
HCl gas was bubbled through a solution of (E)-4-(1-(4-fluorophenyl)cyclohexyl)but-3-enenitrile (Intermediate I-11B, 769 mg, 3.16 mmol) in anhydrous methanol (20 mL), and the mixture was stirred in a sealed tube at 60° C. for 1 hr. After cooling, about 10 mL of water was added and the mixture was stirred at room temperature overnight. The mixture was then added to ethyl acetate and washed with water, brine dried over sodium sulfate and concentrated under reduced pressure to give the (E)-methyl 4-(1-(4-fluorophenyl)cyclohexyl)but-3-enoate (560 mg, 2.03 mmol, 64.1% yield) as an oil. 1H NMR (400 MHz, CDCl3) δ ppm 7.30 (2H, dd, J=9.02, 5.28 Hz), 6.99 (2H, t, J=8.80 Hz), 5.51-5.56 (1H, m), 5.35-5.45 (1H, m), 3.68 (3H, s), 3.05 (2H, dd, J=6.82, 1.10 Hz), 1.90-2.00 (2H, m), 1.79-1.88 (2H, m), 1.45-1.63 (6H, m).

reactant | HCl | Cl | ClH
reactant | (E)-4-(1-(4-fluorophenyl)cyclohexyl)but-3-enenitrile | 3.16 mmol, 769 mg | FC1=CC=C(C=C1)C1(CCCCC1)/C=C/CC#N | C16H18FN
reactant | water | about 10 mL | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | (E)-methyl 4-(1-(4-fluorophenyl)cyclohexyl)but-3-enoate | 2.03 mmol, 560 mg, 64.1% yield | FC1=CC=C(C=C1)C1(CCCCC1)/C=C/CC(=O)OC | C17H21FO2
